US05360814
Step a: 4,6-Dichloroindole
Dissolve 4,6-dichloro-indole-2-carboxylic acid (1.0g, 4.35mmol) in quinoline (25mL). Add copper powder (100mg) and heat to 220° C. for 3 hours. Pour the resulting black solution into cold concentrated hydrochloric acid (300mL) and extract into ethyl ether (500mL). Filter, wash with 1M hydrochloric acid (2×200mL), water (100mL) and dry (MgSO4). Evaporate the solvent in vacuo to give a brown oil (0.76g). Purify by silica gel chromatography (17% ethyl acetate/hexane) to give the title compound as an amber oil (0.66g, 81%). 1H NMR (CDCl3 /TMS): 6.56-6.59 ppm (1H, m), 7.10-7.13 ppm (2H, m), 7.16-7.18 ppm (1H, m). 13C NMR (CDCl3), ppm: 101.48, 110.16, 120.24, 125.77, 125.94, 126.54, 122.79, 106.54.

reactant | 4,6-dichloro-indole-2-carboxylic acid | 4.35mmol, 1.0g | ClC1=C2C=C(NC2=CC(=C1)Cl)C(=O)O | C9H5Cl2NO2
reactant | hydrochloric acid | 300mL | Cl | ClH
solvent | quinoline | 25mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 100mg | [Cu] | Cu
product | 4,6-Dichloroindole | 0.76g | ClC1=C2C=CNC2=CC(=C1)Cl | C8H5Cl2N
